US05686611
2-Acetamido-6-diphenylcarbamoyl-9-(vinyloxymethyl)purine (35)
To a solution of 2-acetamido-6-diphenylcarbamoyl-9-[2-(phenylselenyl)ethoxymethyl]purine (4.92 g, 8.16 mmol) in dioxane (80 mL) was added 30% H2O2 (4 mL, 35 mmol) and sodium bicarbonate (2.1 g, 24.5 mmol). The mixture was heated at 60° C. for 20 min. The reaction was then concentrated to about 10 mL, diluted with ethyl acetate (100 mL), dried (MgSO4) and the solvents were removed in vacuo. The residue was dissolved in dioxane (40 mL), diisopropylethylamine (1.27 g, 10 mmol) was added and the solution was heated at 80° C. for 30 min under nitrogen. The solvent was evaporated in vacuo and the residual oil was chromatographed on silica gel using CH2Cl2 -ethyl acetate (1:1) as eluent to give the title compound as a yellowish powder: yield 2.3 g (65%).

reactant | 2-acetamido-6-diphenylcarbamoyl-9-[2-(phenylselenyl)ethoxymethyl]purine | 8.16 mmol, 4.92 g | C(C)(=O)NC1=NC(=C2N=CN(C2=N1)COCC[Se]C1=CC=CC=C1)C(N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H26N6O3Se
reactant | H2O2 | 35 mmol, 4 mL | OO | H2O2
reactant | sodium bicarbonate | 24.5 mmol, 2.1 g | C([O-])(O)=O.[Na+]
reactant | diisopropylethylamine | 10 mmol, 1.27 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 2-Acetamido-6-diphenylcarbamoyl-9-(vinyloxymethyl)purine | C(C)(=O)NC1=NC(=C2N=CN(C2=N1)COC=C)C(N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H20N6O3
